US04723017
4.3 g (0.021 mol) of 3-hydroxy-3-(2-methyl-5-pyridyl)-propionic acid ethyl ester, 3.0 g (0.03 mol) of acetic anhydride, 2.7 g (0.034 mol) of pyridine and 0.17 g (0.0017 mol) of 4-dimethylaminopyridine were stirred at 0° C. for 24 hours. The solution was mixed with 25 ml of 5 percent sodium hydroxide solution and extracted twice, each time with 25 ml of methylene chloride. The organic extracts were evaporated; the residue (4.7 g) contained 3-acetoxy-3-(2-methyl-5-pyridyl)-propionic acid ethyl ester (yield 90.4 percent).

reactant | 3-hydroxy-3-(2-methyl-5-pyridyl)-propionic acid ethyl ester | 0.021 mol, 4.3 g | C(C)OC(CC(C=1C=CC(=NC1)C)O)=O | C11H15NO3
reactant | acetic anhydride | 0.03 mol, 3.0 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 0.034 mol, 2.7 g | N1=CC=CC=C1 | C5H5N
reactant | sodium hydroxide | 25 ml | [OH-].[Na+]
catalyst | 4-dimethylaminopyridine | 0.0017 mol, 0.17 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-acetoxy-3-(2-methyl-5-pyridyl)-propionic acid ethyl ester | yield 90.4 percent | C(C)OC(CC(C=1C=CC(=NC1)C)OC(C)=O)=O | C13H17NO4
